US07576077B2
3-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,1-c][1,2,4]triazole
Me3OBF4 (2.66 g, 18 mmol) was added to a solution of 2-pyrollidinone in DCM (150 ml) and the reaction mixture was stirred for 24 h. The reaction mixture was washed with aq. sat. NaHCO3, dried and concentrated. The residue was dissolved in EtOH (4 ml) and isonicotinic hydrazide (1.37 g, 10 mmol) was added. The mixture was heated in a microwave reactor for 1 h at 120° C. The volatiles were removed and the crude product purified with column chromatography (DCM/MeOH 20:1) to give 319 mg (11%) of the title compound. 1H NMR: 2.87 (m, 2H), 3.05 (t, 2H), 4.28 (t, 2H), 7.72 (d,2H), 8.72 (d, 2H).

reactant | 2-pyrollidinone | N1C(CCC1)=O | C4H7NO
reactant | isonicotinic hydrazide | 10 mmol, 1.37 g | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
solvent | DCM | 150 ml | C(Cl)Cl | CH2Cl2
product | 3-pyridin-4-yl-6,7-dihydro-5H-pyrrolo[2,1-c][1,2,4]triazole | 319 mg, 11% | N1=CC=C(C=C1)C=1N2C(=NN1)CCC2 | C10H10N4
